US04272413
N-beta hexadecyl-N'-methylurea
38.6 g (0.135 mole) beta-hexadecylamine in 60 ml methylene chloride was reacted with 9.6 ml methyl isocyanate in 15 ml methylene chloride in accordance with the procedure in Example 4, yielding a white solid reaction product.

reactant | beta-hexadecylamine | 0.135 mole, 38.6 g | CC(CCCCCCCCCCCCCC)N | C16H35N
reactant | methyl isocyanate | 9.6 ml | CN=C=O | C2H3NO
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | N-beta hexadecyl-N'-methylurea | CC(CCCCCCCCCCCCCC)NC(=O)NC | C18H38N2O
